US09428456B2
N-[3-(4-Cyclohexylcarbamoyl-4-fluoro-piperidin-1-ylmethyl)-phenyl]-5-methyl-nicotinamide
A solution of N-(3-formyl-phenyl)-5-methyl-nicotinamide L-1 (60 mg, 0.25 mmol) and 4-fluoro-piperidine-4-carboxylic acid cyclohexylamide hydrochloride (66 mg, 0.25 mmol) in DCM (3 mL) is treated with DIPEA (0.128 mL, 0.75 mmol). Sodium triacetoxyborohydride (132 mg, 0.62 mmol) is added at once and the mixture is stirred at RT for 18 h. The mixture is diluted with DCM (5 mL) and washed twice with aq. sat. NaHCO3 (5 mL). The organic phase is dried over MgSO4 and evaporated. The residue is dissolved in acetonitrile and purified by prep HPLC E, delivering the title compound as a colorless powder, LC-MS A: tR=0.62 min; [M+H]+=453.4. 1H-NMR (CDCl3): δ 1-1.4 (m, 5H), 1.6-1.8 (m, 6H), 1.9-2.1 (m, 2H), 2.2-2.4 (m, 4H), 3.45 (s, 3H), 2.7-2.8 (m, 2H), 3.7-3.8 (m, 1H), 6.28 (t, J=6.5, 1H), 7.15 (d, J=8, 1H), 7.35 (t, J=8, 1H), 7.55 (s, 1H), 7.73 (d, J=8, 1H), 8.05 (s, 1H), 8.12 (s, 1H), 8.61 (s, 1H), 8.93 (s, 1H).

reactant | N-(3-formyl-phenyl)-5-methyl-nicotinamide | 0.25 mmol, 60 mg | C(=O)C=1C=C(C=CC1)NC(C1=CN=CC(=C1)C)=O | C14H12N2O2
reactant | 4-fluoro-piperidine-4-carboxylic acid cyclohexylamide hydrochloride | 0.25 mmol, 66 mg | Cl.C1(CCCCC1)NC(=O)C1(CCNCC1)F
reactant | DIPEA | 0.75 mmol, 0.128 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Sodium triacetoxyborohydride | 0.62 mmol, 132 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | N-[3-(4-Cyclohexylcarbamoyl-4-fluoro-piperidin-1-ylmethyl)-phenyl]-5-methyl-nicotinamide | C1(CCCCC1)NC(=O)C1(CCN(CC1)CC=1C=C(C=CC1)NC(C1=CN=CC(=C1)C)=O)F | C26H33FN4O2
